US05354502
6.0 g (0.03 mol) of 2-(4'-propylcyclohexyl)propane-1,3-diol, 6.6 g (0.03 mol) of 4-bromo-3,5-difluorobenzaldehyde and 0.3 g of TsOH were dissolved in 60 cm3 of dichloromethane, and it was refluxed for 3 hours on a hot water bath while removing the water produced with a Dean-Stark trap. After washing the reactant on water, the dichloromethane was removed. The residue was recrystallized from a solvent mixture of acetone and methanol to obtain 7.3 g (0.018 mol) of 2-(4'-bromo-3',5'-difluorophenyl)-5-(4'-propylcyclohexyl)-1,3-dioxane(trans-cis form mixture).

reactant | 2-(4'-propylcyclohexyl)propane-1,3-diol | 0.03 mol, 6.0 g | C(CC)C1CCC(CC1)C(CO)CO | C12H24O2
reactant | 4-bromo-3,5-difluorobenzaldehyde | 0.03 mol, 6.6 g | BrC1=C(C=C(C=O)C=C1F)F | C7H3BrF2O
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
catalyst | TsOH | 0.3 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 2-(4'-bromo-3',5'-difluorophenyl)-5-(4'-propylcyclohexyl)-1,3-dioxane | 0.018 mol, 7.3 g | BrC1=C(C=C(C=C1F)C1OCC(CO1)C1CCC(CC1)CCC)F | C19H25BrF2O2
